US05770615
Following the procedure described in part E of Example 1 (R), (S)-α-[[2-[((1,1-dimethylethyl)dimethylsilyl)oxy]-2-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethyl]amino]-4-methoxybenzeneacetic acid was condensed with 3-(2-oxazolyl)aniline to generate the title compound. The 3-(2-oxazolyl)aniline was prepared by treating 3-nitrobenzoyl chloride sequentially with 1,2,3-triazole at 140° C. in sulfolane containing K2CO3 to generate 3-(2-oxazolyl)nitrobenzene which was reduced to the desired aniline with Na2S2O4 in THF/H2O at 90° C.

reactant | 3-nitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | 1,2,3-triazole | N1N=NC=C1 | C2H3N3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(2-oxazolyl)nitrobenzene | O1C(=NC=C1)C=1C=C(C=CC1)[N+](=O)[O-] | C9H6N2O3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | THF H2O | C1CCOC1.O
product | 3-(2-oxazolyl)aniline | O1C(=NC=C1)C=1C=C(N)C=CC1 | C9H8N2O
